US04446133
In 50 ml of chloroform was dissolved 2.6 g (0.01 mole) of 1-phenyl-4-diethylcarbamoylpiperazine at room temperature, and the solution was saturated with gaseous hydrogen chloride and stirred for a certain time. The solvent was removed by distillation under reduced pressure. Then, 50 ml of acetone was added to the residue and the mixture was stirred for a certain time. The precipitated crystal was recovered by filtration, washed with acetone, stirred in 50 ml of acetone to effect washing and dried to obtain 2.1 g of 1-phenyl-4-diethylcarbamoylpiperazine hydrochloride having a melting point of 190° to 192° C. The yield was 70.9%. The elementary analysis values are as follows.

reactant | 1-phenyl-4-diethylcarbamoylpiperazine | 0.01 mole, 2.6 g | C1(=CC=CC=C1)N1CCN(CC1)C(N(CC)CC)=O | C15H23N3O
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-phenyl-4-diethylcarbamoylpiperazine hydrochloride | 2.1 g, yield was 70.9% | Cl.C1(=CC=CC=C1)N1CCN(CC1)C(N(CC)CC)=O | InChI=1S/C15H23N3O.ClH/c1-3-16(4-2)15(19)18-12-10-17(11-13-18)14-8-6-5-7-9-14;/h5-9H,3-4,10-13H2,1-2H3;1H
